US08314097B2
2,5-Dimethoxy-4-methylbenzonitrile (4.06 g, 21.5 mmol) is brominates with NBS according to Example 1A to give 4-bromomethyl-2,5-dimethoxybenzonitrile. 1H NMR (400 MHz, CDCl3) δ (ppm) 6.95 (s, 1H), 6.91 (s, 1H), 4.43 (s, 2H), 3.84 (s, 3H), 3.80 (s, 3H).

reactant | 2,5-Dimethoxy-4-methylbenzonitrile | 21.5 mmol, 4.06 g | COC1=C(C#N)C=C(C(=C1)C)OC | C10H11NO2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 4-bromomethyl-2,5-dimethoxybenzonitrile | BrCC1=CC(=C(C#N)C=C1OC)OC | C10H10BrNO2
